US08017599B2
Methyl 1-methyl-4-nitropyrrole-2-carboxylate
A cold solution of H2SO4 (2.9 mL) in MeOH (28.96 mL) was added to 1-methyl-4-nitropyrrole-2-carboxylic acid (2.897 g, 2.35 mmol). The mixture was refluxed for 24 hr. Water was added and the mixture extracted CHCl3. The organic layer was dried (MgSO4), and the solvent evaporated under vacuum to afford the creamy white product. NMR as previously reported.

reactant | H2SO4 | 2.9 mL | OS(=O)(=O)O | H2O4S
reactant | 1-methyl-4-nitropyrrole-2-carboxylic acid | 2.35 mmol, 2.897 g | CN1C(=CC(=C1)[N+](=O)[O-])C(=O)O | C6H6N2O4
reactant | Water | O | H2O
reactant | MeOH | 28.96 mL | CO | CH4O
product | Methyl 1-methyl-4-nitropyrrole-2-carboxylate | CN1C(=CC(=C1)[N+](=O)[O-])C(=O)OC | C7H8N2O4
